US04990521
To a stirred solution of 6.52 parts of cis-4-[(5-amino-4-chloro-2-methoxybenzoyI)amino]-3-methoxy-N,N,γ-trimethyl-α,α-diphenyl-1piperidinebutanamide in 195 parts of dichloromethane were added 2.6 parts of butanoyl chloride. After stirring for 15 minutes, 2.94 parts of N,N-diethylethanamine were added. The whole was stirred overnight at room temperature. The reaction mixture was washed successively with a sodium carbonate solution and water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was stirred in 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.39 parts (46.5%) of cis-4-[[4-chloro-2-methoxy-5-[(1-oxobutyl)amino]benzoyl]amino]-3-methoxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide; mp. 130.7° C. (compound 65).

reactant | cis-4-[(5-amino-4-chloro-2-methoxybenzoyI)amino]-3-methoxy-N,N,γ-trimethyl-α,α-diphenyl-1piperidinebutanamide | NC=1C(=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)C(CC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)OC)C1)OC)Cl | C33H41ClN4O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | butanoyl chloride | C(CCC)(=O)Cl | C4H7ClO
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | cis-4-[[4-chloro-2-methoxy-5-[(1-oxobutyl)amino]benzoyl]amino]-3-methoxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | 46.5% | ClC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)C(CC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)OC)C=C1NC(CCC)=O)OC | C37H47ClN4O5
